2108-06-21 06:36:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Arrythmia
   24 Hour Events: Interrogated by Dr. [**Last Name (STitle) **]: Triggered Junctional
   Rhythm; when paced too fast, couldn
t induce. In perkingie system;
   tried with atropine and made it easier. D/c
d sotolal.
   No o/n events
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Tetracycline
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Sulfur
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-20**] 08:10 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP, SOB, c/o back pain
   Flowsheet Data as of  [**2108-6-21**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 60 (60 - 119) bpm
   BP: 119/52(67) {97/46(62) - 137/94(102)} mmHg
   RR: 13 (9 - 25) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 113.8 kg (admission): 114 kg
                  Total In:
                                                                  2,450 mL
                                                                    180 mL
   PO:
                                                                  1,050 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,400 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    940 mL
   Urine:
                                                                  2,330 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    120 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: 2 Liters
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic),
   Distant S1 and S2.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Tender: RLQ and LLQ
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.4 g/dL
   124 K/uL
   130 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.5 mEq/L
   14 mg/dL
   108 mEq/L
   143 mEq/L
   37.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2108-6-20**]  04:58 AM
   WBC
   9.0
   Hct
   37.9
   Plt
   124
   Cr
   0.8
   TropT
   <0.01
   Glucose
   130
   Other labs: PT / PTT / INR:29.8/31.3/3.0, CK / CKMB /
   Troponin-T:101/5/<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Echo: The left atrium is mildly dilated. The right atrial pressure is
   indeterminate. Left ventricular wall thicknesses and cavity size are
   normal. Regional left ventricular wall motion is normal. Overall left
   ventricular systolic function is low normal (LVEF 50-55%). The aortic
   arch is mildly dilated. A bioprosthetic aortic valve prosthesis is
   present. The aortic valve prosthesis appears well seated, with normal
   leaflet motion and transvalvular gradients. No aortic regurgitation is
   seen. The mitral valve leaflets are mildly thickened. An eccentric jet
   of moderate (2+) mitral regurgitation is seen. A bioprosthetic
   tricuspid valve is present. The leaflets are not well seen, but the
   gradient is increased (mean 6mmHg). Mild [1+] tricuspid regurgitation
   is seen. The estimated pulmonary artery systolic pressure is normal.
   There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2106-9-23**], the
   transtricuspid gradient is higher and the severity of tricuspid
   regurgitation and mitral regurgitation are reduced.
   If clinically indicated, a TEE would be better able to define the
   tricuspid valve prosthesis and severity of mitral regurgitation.
   Assessment and Plan
 ASSESSMENT AND PLAN:  The patient is a 60 yo female with h/o
   endocarditis, AVR, TVR, CHB s/p PPM placement, DVT/PE on
   anticoagulation, mental retardation, hypertension, DM2, who presented
   with chest pain, tachycardia, and hypotension and was found to have
   fasicular ventricular tachycardia.
   .
   # Fasicular VTach:  The patient presented with persistent tachycardia
   despite fluid resuscitation, which was found to be fasicular VTach.
   After programmed electical stimulation, the patient had a VPC and
   returned to A-V paced rhythm.  Her tachycardia has since resolved,.
    -- Continue to monitor on telemetry
    -  If patient gets tachy, give beta blocker.
    - f/u on tte final report
   .
   # Chest pain:  The patient presented with chest pain in the setting of
   Ventricular Tachycardia.  She states that the pain has somewhat
   resolved.  She has a history of CAD, though cardiac catheterization
   from [**2104**] showed clean coronary arteries.  DDx includes CAD v. GERD v.
   MSK complaints.
    - Continue nitro/morphine PRN pain
    - Continue PPI per home dose
   .
   # Hypotension: The patient was hypotensive in the ED.  Her Lisinopril
   and Furosemide were held, and the patient's BP has increased. Overnight
   BP is stable.
    - Continue home dose of Lasix
    - Continue to hold Lisinopril and consider restarting in the am.
    - F/U blood cultures to r/o infection. Still pending
   .
   # DM2: The patient has a history of Dm2, for which she takes insulin at
   home.
    - Continue home lantus, NPH [**Hospital1 **], and sliding scale
    - Diabetic diet
   .
   # h/o DVT/PE, valves: on coumadin for anticoagulation. goal INR
   2.5-3.5
    - at goal for now; cont coumadin at 4 mg daily
   .
   # COPD: cont home spiriva, atrovent/albuterol nebs
   .
   # Chronic LBP: reports had MVA many years ago, and multiple falls.
   States pain is at chronic baseline. On long acting oxycontin/oxycodone
    - will give morphine IV for now while monitoring HR/BP
    - if BP stable, consider restarting home oxycontin and oxycodone
   .
   # FEN: replete electrolytes, diabetc cardiac diet
   .
   # Prophylaxis: therapeutic INR on coumadin
   .
   # Access: peripherals
   .
   # Code: full- confirmed with patient
   .
   # Communication: Patient. sister [**Name (NI) 3746**] [**Telephone/Fax (1) 7257**]
   .
   # Disposition: CCU for now
   ICU Care
    Nutrition:
   Comments: Cardiac diet
   Glycemic Control: Comments: HISS, glargine, and NPH
   Lines:
   18 Gauge - [**2108-6-19**] 11:43 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: ICU

2108-06-21 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Arrythmia
   24 Hour Events: Interrogated by Dr. [**Last Name (STitle) **]: Triggered Junctional
   Rhythm; when paced too fast, couldn
t induce. In perkingie system;
   tried with atropine and made it easier. D/c
d sotolal.
   No o/n events
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Tetracycline
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Sulfur
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-20**] 08:10 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP, SOB, c/o back pain
   Flowsheet Data as of  [**2108-6-21**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 60 (60 - 119) bpm
   BP: 119/52(67) {97/46(62) - 137/94(102)} mmHg
   RR: 13 (9 - 25) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 113.8 kg (admission): 114 kg
                  Total In:
                                                                  2,450 mL
                                                                    180 mL
   PO:
                                                                  1,050 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,400 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    940 mL
   Urine:
                                                                  2,330 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    120 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: 2 Liters
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic),
   Distant S1 and S2.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Tender: RLQ and LLQ
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.4 g/dL
   124 K/uL
   130 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.5 mEq/L
   14 mg/dL
   108 mEq/L
   143 mEq/L
   37.9 %
   9.0 K/uL
                             [**2108-6-20**]  04:58 AM
   WBC
   9.0
   Hct
   37.9
   Plt
   124
   Cr
   0.8
   TropT
   <0.01
   Glucose
   130
   Other labs: PT / PTT / INR:29.8/31.3/3.0, CK / CKMB /
   Troponin-T:101/5/<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Echo: The left atrium is mildly dilated. The right atrial pressure is
   indeterminate. Left ventricular wall thicknesses and cavity size are
   normal. Regional left ventricular wall motion is normal. Overall left
   ventricular systolic function is low normal (LVEF 50-55%). The aortic
   arch is mildly dilated. A bioprosthetic aortic valve prosthesis is
   present. The aortic valve prosthesis appears well seated, with normal
   leaflet motion and transvalvular gradients. No aortic regurgitation is
   seen. The mitral valve leaflets are mildly thickened. An eccentric jet
   of moderate (2+) mitral regurgitation is seen. A bioprosthetic
   tricuspid valve is present. The leaflets are not well seen, but the
   gradient is increased (mean 6mmHg). Mild [1+] tricuspid regurgitation
   is seen. The estimated pulmonary artery systolic pressure is normal.
   There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2106-9-23**], the
   transtricuspid gradient is higher and the severity of tricuspid
   regurgitation and mitral regurgitation are reduced.
   If clinically indicated, a TEE would be better able to define the
   tricuspid valve prosthesis and severity of mitral regurgitation.
   Assessment and Plan
 ASSESSMENT AND PLAN:  The patient is a 60 yo female with h/o
   endocarditis, AVR, TVR, CHB s/p PPM placement, DVT/PE on
   anticoagulation, mental retardation, hypertension, DM2, who presented
   with chest pain, tachycardia, and hypotension and was found to have
   fasicular ventricular tachycardia.
   .
   # Fasicular VTach:  The patient presented with persistent tachycardia
   despite fluid resuscitation, which was found to be fasicular VTach.
   After programmed electical stimulation, the patient had a VPC and
   returned to A-V paced rhythm.  Her tachycardia has since resolved,.
    -- Continue to monitor on telemetry
    -  Start Verapamil SR 120 PO Daily
    -  f/u on tte final report
   .
   # Chest pain:  The patient presented with chest pain in the setting of
   Ventricular Tachycardia.  She states that the pain has somewhat
   resolved.  She has a history of CAD, though cardiac catheterization
   from [**2104**] showed clean coronary arteries.
   - Oxycodone/ocycotin cont. per home regiment.
    - Continue PPI per home dose
   .
   # Hypotension: The patient was hypotensive in the ED.  Her Lisinopril
   and Furosemide were held, and the patient's BP has increased. Overnight
   BP is stable.
    - Continue home dose of Lasix
    - Restart Lisinopril 2.5 mg Daily
    - F/U blood cultures to r/o infection.
   - DC antibiotics
   .
   # DM2: The patient has a history of Dm2, for which she takes insulin at
   home.
    - Continue home lantus, NPH [**Hospital1 **], and sliding scale
    - Diabetic diet
   .
   # h/o DVT/PE, valves: on coumadin for anticoagulation. goal INR
   2.5-3.5
    - at goal for now; cont coumadin at 4 mg daily
   .
   # COPD: cont home spiriva, atrovent/albuterol nebs
   .
   # Chronic LBP: reports had MVA many years ago, and multiple falls.
   States pain is at chronic baseline. On long acting oxycontin/oxycodone
    - DC Morphine with oxycontine/oxycodone restarted.
    - Continue oxycontin and oxycodone
   .
   # FEN: replete electrolytes, diabetc cardiac diet
   .
   # Prophylaxis: therapeutic INR on coumadin
   .
   # Access: peripherals
   .
   # Code: full- confirmed with patient
   .
   # Communication: Patient. sister [**Name (NI) 3746**] [**Telephone/Fax (1) 7257**]
   .
   # Disposition: Call out to floor. After 24 hours on Verapamil
   anticipate discharge.
   ICU Care
    Nutrition:
   Comments: Cardiac diet
   Glycemic Control: Comments: HISS, glargine, and NPH
   Lines:
   18 Gauge - [**2108-6-19**] 11:43 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Attending;
   Agree with Dr.[**Last Name (STitle) **]
s notes.
   Reviewed data and clinical course.
   Examined Pt.
   In view of slow VT with normal LVEF and no compromise Pt can be
   transferred to [**Wardname 2066**].
   Would start Verapamil SR 120mg/day
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**].
   Spent 30 mins on casae
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2108-6-22**] 08:11 ------

2108-06-22 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - In afternoon, 1pm, had episode of triggered VT / Junctional rhythm;
   terminated by EP and 5mg IV verapamil.  If recurs should place magnet
   briefly over pacemaker (resets) or give Verapamil 5mg IV (does decrease
   SBP [**9-20**] points).  She endorses some SOB and chest pain with these
   episodes.
   - Around 7pm, had another episode of triggered VT/Junctional rhythm,
   rhythm converted on own before magnet was placed.
   - Restarted home Lisinopril and Oxycodone
   - Discontinued Vancomycin ->leukocytosis resolving and afebrile
   - Started Verapamil SR 120 mg daily
   - Called patient
s PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) **], states patient was recieving Lasix
   for venous stasis at 80mg po qam and 40mg po qhs). Pt with negative
   I/O
s last night so stopped evening lasix dose.
   - This morning, patient denies any chest pain but states her back is in
   pain.  She states this is her typical level of pain at home.
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Tetracycline
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Sulfur
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-20**] 08:10 PM
   Infusions:
   Other ICU medications:
   Verapamil - [**2108-6-21**] 01:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-22**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 61 (60 - 115) bpm
   BP: 135/69(84) {93/41(55) - 166/120(141)} mmHg
   RR: 15 (12 - 24) insp/min
   SpO2: 93% on RA
   Heart rhythm: V Paced
   Wgt (current): 112 kg (admission): 114 kg
                  Total In:
                                                                  2,060 mL
                  PO:
                                                                  2,060 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,040 mL
                                                                  1,120 mL
   Urine:
                                                                  4,040 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,980 mL
                                                                 -1,120 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93% RA
   ABG:
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, EOMI
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: IV/VI systolic murmur heard across the precordium,
   Distant S1 and S2.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present, diminished), (Left DP pulse:
   Present, diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   CTAB without wheezes, rales or rhonchi
   Abdominal: Soft, Distended, Slightly tender to palpation in lower
   quadrants
   Skin:  Healing ulcerations on legs bilaterally with venous stasis
   changes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   114 K/uL
   12.3 g/dL
   165 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   16 mg/dL
   103 mEq/L
   141 mEq/L
   36.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2108-6-20**]  04:58 AM
                             [**2108-6-21**]  05:40 AM
                             [**2108-6-21**]  09:58 AM
                             [**2108-6-22**]  03:40 AM
   WBC
   9.0
   6.8
   7.8
   Hct
   37.9
   33.5
   36.6
   36.9
   Plt
   124
   103
   114
   Cr
   0.8
   0.8
   0.9
   TropT
   <0.01
   Glucose
   130
   132
   165
   Other labs: PT / PTT / INR:23.1/27.3/2.2, CK / CKMB /
   Troponin-T:101/5/<0.01, Lactic Acid:2.1 mmol/L, Ca++:10.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Lipid panel: Cholesterol 109, Triglyc 123, HDL 31, LDLcalc 53
   TTE final read:  The left atrium is mildly dilated. The right atrial
   pressure is indeterminate. Left ventricular wall thicknesses and cavity
   size are normal. Regional left ventricular wall motion is normal.
   Overall left ventricular systolic function is low normal (LVEF 50-55%).
   The aortic arch is mildly dilated. A bioprosthetic aortic valve
   prosthesis is present. The aortic valve prosthesis appears well seated,
   with normal leaflet motion and transvalvular gradients. No aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   An eccentric jet of moderate (2+) mitral regurgitation is seen. A
   bioprosthetic tricuspid valve is present. The leaflets are not well
   seen, but the gradient is increased (mean 6mmHg). Mild [1+] tricuspid
   regurgitation is seen. The estimated pulmonary artery systolic pressure
   is normal. There is no pericardial effusion.   Compared with the prior
   study (images reviewed) of [**2106-9-23**], the transtricuspid gradient is
   higher and the severity of tricuspid regurgitation and mitral
   regurgitation are reduced.  If clinically indicated, a TEE would be
   better able to define the tricuspid valve prosthesis and severity of
   mitral regurgitation.
   Urine cx ([**6-19**])
 contaminated
   Blood cx ([**6-19**] and [**6-21**]) - NGTD
   Assessment and Plan
 ASSESSMENT AND PLAN:  The patient is a 60 yo female with h/o
   endocarditis, AVR, TVR, CHB s/p PPM placement, DVT/PE on
   anticoagulation, mental retardation, hypertension, DM2, who presented
   with chest pain, tachycardia, and hypotension and was found to have
   triggered VT/junctional tachycardia yesterday.
   .
   # Triggered junctional tachycardia:  Patient with two episodes of
   triggered VT/junctional tachycardia yesterday.  The first terminated
   with IV verapamil, the second ended spontaneously.  TTE final report
   showed
    - Continue to monitor on telemetry
    -  Continue Verapamil SR 120 PO Daily
   -  Give one dose of Verapamil 120 today.
   .
   # Chest pain:  The patient presented with chest pain in the setting of
   Ventricular Tachycardia.  She states that the pain has somewhat
   resolved.  She has a history of CAD, though cardiac catheterization
   from [**2104**] showed clean coronary arteries.
    - Oxycodone/ocycotin cont. per home regimen
    - Continue PPI per home dose
   .
   # Hypotension: The patient without hypotension overnight, and some
   hypertension (166/120).  She was restarted on her lisinopril and
   morning Lasix dose, but due to fluid balance we are holding her evening
   Lasix dose.
    - Continue Lisinopril 2.5 mg Daily
    - F/U blood cultures to r/o infection.
    - Have D/C
ed antibiotics
   .
   # DM2: The patient has a history of Dm2, for which she takes insulin at
   home.
    - Continue home lantus, NPH [**Hospital1 **], and sliding scale
    - Diabetic diet
   .
   # h/o DVT/PE, valves: on coumadin for anticoagulation. goal INR
   2.5-3.5
    - lower than goal at this time (INR 2.2 today)
   -  Keep Coumadin at same dose.
   .
   # COPD: cont home spiriva, atrovent/albuterol nebs
   .
   #Venous stasis. Stable.
   - Encourage leg elevation and compression stockings.
   - Laxis 40mg Daily
   .
   # Chronic LBP: reports had MVA many years ago, and multiple falls.
   States pain is at chronic baseline. On long acting oxycontin/oxycodone
    - Restarted home meds of oxycontin and oxycodone, appears to be at
   baseline
    - Encourage use of heat packs for pain relief, as these appear to help
   patient
   .
   ICU Care
   Nutrition: Diabetic/Cardiac diet
   Glycemic Control: Comments: HISS, glargine, and NPH
   Lines:  18 Gauge - [**2108-6-19**] 11:43 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held, Patient. sister [**Name (NI) 3746**]
   [**Telephone/Fax (1) 7257**]
   Code status: Full code
   Disposition: ICU